US08217032B2
6-(2,6-Difluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-ol hydrochloride
Dissolve 1-(2-{4-[2-(2,6-difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine (300 mg., 0.61 mmoles) in 20 ml methylene chloride and chill in ice. To this add 2.0 ml of boron tribromide with swirling and allow to warm to room temperature. Pour this mixture into a two-phase mixture consisting of saturated sodium bicarbonate and a 3/1 mixture of chloroform/isopropanol. Wash the organic layer with brine and dry over 3A molecular sieves. Purify further using reverse phase chromatography to give 138 mg of the title compound (48%). Convert to hydrochloride salt and lyophilize. 1H-NMR (CDCl3, 300 MHz) δ7.92 (d, J=9.0 Hz, 1H); 7.59 (d, J=8.4 Hz, 1H); 7.35 (d, J=8.4 Hz, 1H); 7.20-7.17 (m, 2H); 7.03 (dd, J=9.0, 2.1 Hz, 1H); 6.85-6.80 (m, 2H); 6.52 (s, 4H); 3.95 (t, J=5.7 Hz, 2H); 2.73 (t, J=6.0 Hz, 2H); 2.52-2.52 (m, 4H); 1.64-1.59 (m, 4H); 1.46-1.44 (m, 2H).

reactant | 1-(2-{4-[2-(2,6-difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine | 0.61 mmoles, 300 mg | FC1=C(C(=CC=C1)F)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | C30H29F2NO3
reactant | boron tribromide | 2.0 ml | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 6-(2,6-Difluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-ol hydrochloride | 138 mg, 48% | Cl.FC1=C(C(=CC=C1)F)C=1C(=C2C=CC(=CC2=CC1)O)OC1=CC=C(C=C1)OCCN1CCCCC1 | InChI=1S/C29H27F2NO3.ClH/c30-26-5-4-6-27(31)28(26)25-13-7-20-19-21(33)8-14-24(20)29(25)35-23-11-9-22(10-12-23)34-18-17-32-15-2-1-3-16-32;/h4-14,19,33H,1-3,15-18H2;1H
